US07189741B2
This compound was prepared following the procedure described in example 13 (part B), starting with 11 g (40 mmol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 9 g (48 mmol) of 4-(2-chloro-ethyl)-morpholine hydrochloride. The reaction mixture was stirred at room temperature for 18 hours. After standard work-up and purification, 13.5 g (88% of yield) of 4-[1-(2-morpholin-4-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 40 mmol, 11 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 4-(2-chloro-ethyl)-morpholine hydrochloride | 48 mmol, 9 g | Cl.ClCCN1CCOCC1
product | 4-[1-(2-morpholin-4-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 13.5 g, 88% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CCN1CCOCC1 | C22H31N3O3
